US08466282B2
1-(2-fluorophenyl)-N-[(3S,5R)-5-(hydroxymethyl)piperidin-3-yl]-5-(4-methoxybutyl)-N-(2-methylpropyl)-1H-1,2,3-triazole-4-carboxamide hydrochloride
tert-Butyl (3S,5R)-3-[{[1-(2-fluorophenyl)-5-(4-methoxybutyl)-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(hydroxymethyl)piperidine-1-carboxylate (400 mg) was dissolved in 10% hydrogen chloride-methanol (4 ml), and the mixture was stirred at room temperature for 18 hr. The reaction mixture was concentrated to give the object product (334 mg).

reactant | tert-Butyl (3S,5R)-3-[{[1-(2-fluorophenyl)-5-(4-methoxybutyl)-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(hydroxymethyl)piperidine-1-carboxylate | 400 mg | FC1=C(C=CC=C1)N1N=NC(=C1CCCCOC)C(=O)N([C@@H]1CN(C[C@@H](C1)CO)C(=O)OC(C)(C)C)CC(C)C | C29H44FN5O5
reactant | hydrogen chloride methanol | 4 ml | Cl.CO
product | 1-(2-fluorophenyl)-N-[(3S,5R)-5-(hydroxymethyl)piperidin-3-yl]-5-(4-methoxybutyl)-N-(2-methylpropyl)-1H-1,2,3-triazole-4-carboxamide hydrochloride | 334 mg | Cl.FC1=C(C=CC=C1)N1N=NC(=C1CCCCOC)C(=O)N(CC(C)C)[C@@H]1CNC[C@@H](C1)CO | InChI=1S/C24H36FN5O3.ClH/c1-17(2)15-29(19-12-18(16-31)13-26-14-19)24(32)23-22(10-6-7-11-33-3)30(28-27-23)21-9-5-4-8-20(21)25;/h4-5,8-9,17-19,26,31H,6-7,10-16H2,1-3H3;1H/t18-,19+;/m1./s1
